US07041685B2
1,5-Bis-(4-chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1H-pyrazole
1,5-Bis-(4-chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-4,5-dihydro-1H-pyrazole: The title compound was prepared from 3-(4-chloro-phenyl)-1-(3-chloro-thiophen-2-yl)-propenone and 4-chloro-phenylhydrazine by a procedure similar to that of Example 105a as a yellowish oil (112 mg, 51.8%). 1H NMR (CDCl3): 7.35 (d, J=8.7 Hz, 2H), 7.27 (t, 3H), 7.15 (d, J=9.3 Hz, 2H), 6.91 (m, 3H), 5.25 (m, 1H), 4.03 (m, 1H), 3.83 (m, 1H).

reactant | 1,5-Bis-(4-chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-4,5-dihydro-1H-pyrazole | ClC1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)Cl)C=1SC=CC1Cl | C19H13Cl3N2S
reactant | 4-chloro-phenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
product | 1,5-Bis-(4-chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1H-pyrazole | ClC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)Cl)C=1SC=CC1Cl | C19H11Cl3N2S
